US07348438B2
5,6-Dichloro-1-Pyridin-3-ylmethyl-2-(2,2,2-trifluoro-ethyl)-1H-benzoimidazole
To 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole (423 mg) in DMF (5 mL) was added potassium carbonate powder (868 mg) and 3-(bromomethyl)pyridine hydrogen bromide (615 mg). The resulting mixture was stirred at room temperature overnight. The reaction mixture was quenched with water, extracted with EtOAc, and dried over Na2SO4. The crude product was purified by silica gel chromatography (15%-60% EtOAc/hexanes) to yield the title compound as a green solid.

reactant | 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole | 423 mg | ClC1=CC2=C(NC(=N2)CC(F)(F)F)C=C1Cl | C9H5Cl2F3N2
reactant | potassium carbonate | 868 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(bromomethyl)pyridine hydrogen bromide | 615 mg | Br.BrCC=1C=NC=CC1
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5,6-Dichloro-1-Pyridin-3-ylmethyl-2-(2,2,2-trifluoro-ethyl)-1H-benzoimidazole | ClC1=CC2=C(N(C(=N2)CC(F)(F)F)CC=2C=NC=CC2)C=C1Cl | C15H10Cl2F3N3
